US04697037
Step A: 4-Methyl-3-phenylthiobenzoic acid
A 22 liter 3-necked round bottom flask, fitted with an overhead stirrer, thermometer, and a distillation head was placed in a heating mantle and charged with quinoline (6 liter), 3-bromo-4-methylbenzoic acid (2.75 kg, 12.79 mole), thiophenol (1.75 kg 15.22 mole) and cuprous oxide (958 g, 6.7 mole). The red slurry was placed under a nitrogen blanket and heated with stirring to 180°-200° C. over a 1 hour period collecting the water as it distills. This temperature was maintained for 0.5 hours. The mixture was cooled to 110° C. and then transferred to a stirred solution of 6N hydrochloric acid. After stirring overnight, the product was collected by suction filtration, washed with 6N hydrochloric acid (19 liters) and then with water until neutral (alk-acid paper). The filter cake was washed with isopropanol and dried at 40° C. in vacuo to yield the title compound as a tan solid (2.97 kg, 95% yield, 91% purity).

reactant | 3-bromo-4-methylbenzoic acid | 12.79 mole, 2.75 kg | BrC=1C=C(C(=O)O)C=CC1C | C8H7BrO2
reactant | thiophenol | 15.22 mole, 1.75 kg | C1(=CC=CC=C1)S | C6H6S
reactant | quinoline | 6 liter | N1=CC=CC2=CC=CC=C12 | C9H7N
product | 4-Methyl-3-phenylthiobenzoic acid | 2.97 kg, 95% yield | CC1=C(C=C(C(=S)O)C=C1)C1=CC=CC=C1 | C14H12OS
